2138-05-31 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2138-5-30**] 10:08 AM
   Abdomen firm; CT scan suspcious for C. diff. Stool toxin negative x 1.
   Growing GNR's in blood and urine. On Vanco, cefepime and flagyl.
   Surgery aware- feel that abdominal distention is improving. Guaiac
   negative.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2138-5-30**] 06:00 PM
   Metronidazole - [**2138-5-31**] 12:17 AM
   Vancomycin - [**2138-5-31**] 05:36 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-5-31**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.8
   HR: 65 (60 - 71) bpm
   BP: 106/63(72) {91/45(57) - 121/68(106)} mmHg
   RR: 23 (12 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  4,691 mL
                                                                    516 mL
   PO:
                                                                    300 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  3,391 mL
                                                                    416 mL
   Blood products:
   Total out:
                                                                  3,455 mL
                                                                    850 mL
   Urine:
                                                                  3,300 mL
                                                                    850 mL
   NG:
   Stool:
                                                                    155 mL
   Drains:
   Balance:
                                                                  1,236 mL
                                                                   -334 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Bowel sounds present, Distended, moderate
   distention without any tenderness
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   219 K/uL
   8.2 g/dL
   89 mg/dL
   0.8 mg/dL
   20 mEq/L
   3.2 mEq/L
   7 mg/dL
   109 mEq/L
   137 mEq/L
   24.5 %
   3.7 K/uL
        [image002.jpg]
                             [**2138-5-30**]  03:37 AM
                             [**2138-5-31**]  05:21 AM
   WBC
   5.7
   3.7
   Hct
   25.7
   24.5
   Plt
   235
   219
   Cr
   1.1
   0.8
   Glucose
   105
   89
   Other labs: PT / PTT / INR:15.4/52.6/1.4, ALT / AST:111/96, Alk Phos /
   T Bili:205/0.7, Differential-Neuts:84.6 %, Lymph:10.1 %, Mono:4.1 %,
   Eos:1.0 %, Albumin:3.2 g/dL, LDH:280 IU/L, Ca++:7.5 mg/dL, Mg++:1.9
   mg/dL, PO4:2.3 mg/dL
   Microbiology: GNR in urine and blood
   Assessment and Plan
   Assessment: 57M with metastatic renal cell carcinoma s/p T2-7 spinal
   fusion presents for evalation for further radiation therapy. Course
   complicated by post-op ileus now with hypotension and fever.
   # Hypotension/fever:
   -GNR in urine and blood, likely initial urosepsis vs. gut translocation
   from massively dilated colon, now hemodynamically stable
   -no central line, bolus fluids for MAP < 65
   -in addition + diarrhea, continue prn fluid repletion for this as well
   -surveillance blood cultures
   -empiric abx cefepime, vancomycin, and flagyl for now, can narrow
   coverage on [**6-1**] (after 48hours of cultures)
   # Diarrhea: concern for C diff on CT scan, in addition baseline colonic
   distention with h/o Ogilvies.
   -replete lytes aggressively
   -p.m. K and Mg
   -surgery following
   -C diff negative x 1, other stool studies neg x 1
   -resend C diff x 2 and send C diff toxin B
   -empiric flagyl for now until stool studies return, if + for c diff add
   PO vanc
   -serial abdominal exams
   # RCC: Metastatic to brain.  Likely also to lungs, liver.  No
   chemotherapy as yet but plans for systemic therapy in future.   Has had
   mass resection in brain, plans for cyberknife.  On decadron for
   cerebral swelling per onc.
   -Radiation Oncology - plan for cyberknife mapping monday unless still
   critically ill
   - continue dexamethasone ? taper per oncology
   -  con't dilantin
   - onc recs/ neuro-onc
   - discuss bactrim ppx if patient is to remain on steroids
   # S/P T2-7 spinal fusion: TLSO while out of bed.
   -per neurosurgery unlikely cord compression despite urinary retention
   -PT consult
   -Pain control with tylenol and oxycodone
   -Con't methocarbamol
   # Ileus: Appears to be post-op in origin. GI following. Passing gas and
   large amounts of stool.  Patient does have dilated loops of bowel but
   given large amounts of stool, obstruction unlikely
   - follow serial abdominal exams
   -given possibility of perforation while on steroids, largely distended
   colon, possible evidence of translocation causing bacteremia and
   possible colitis will discuss daily KUBs
   -Simethicone
   -Minimize narcotics
   -replete lytes aggressively as above
   -Bowel regimen
   # Hypoxia: new in the setting of fluids. Concern that may have mild
   pulmonary edema though seems very slight.
   -plan for echo
   # DVT: on heparin for LE DVT. can transition back to lovenox when
   definitely not having any intervention / procedures.
   # HTN: holding atenolol for now.
   #FEN: IV fluids for hypotension and to keep up with diarrhea.  NPO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-5-30**] 02:34 AM
   18 Gauge - [**2138-5-30**] 07:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2138-05-31 10:22:00 Physician Attending Progress Note
Chief Complaint: fever, hypotension, diarrhea
   HPI:
   57 yo man with metastatic RCCa, on steroids for brain mets, BCx with
   GNR, abd distension with h/o postop ileus after spinal fusion [**5-1**].
   DVT, on heparin gtt.
   24 Hour Events:
 BLOOD CULTURED - At [**2138-5-30**] 10:08 AM
   CT abd suspicious for CDiff with thin mucosal walls and dilated loops.
   Stool neg x 1.
   GNR in blood and urine.
   Current abx: vanc, cefipime, flagyl
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2138-5-31**] 08:17 AM
   Metronidazole - [**2138-5-31**] 08:17 AM
   Vancomycin - [**2138-5-31**] 08:18 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Dexamethasone taper
   K, Mag replacement
   ISS
   Dilantin
   Vanco PO
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Diarrhea, distended
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2138-5-31**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.4
   HR: 66 (60 - 73) bpm
   BP: 104/65(74) {91/45(57) - 121/68(106)} mmHg
   RR: 25 (12 - 33) insp/min
   SpO2: 100% on RA
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  4,691 mL
                                                                  1,087 mL
   PO:
                                                                    300 mL
                                                                    340 mL
   TF:
   IVF:
                                                                  3,391 mL
                                                                    747 mL
   Blood products:
   Total out:
                                                                  3,455 mL
                                                                  1,020 mL
   Urine:
                                                                  3,300 mL
                                                                  1,020 mL
   NG:
   Stool:
                                                                   155+ mL
   Drains:
   Balance:
                                                                  1,236 mL
                                                                     67 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : faint at left
   base)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended,
   hyperactive BS
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.2 g/dL
   219 K/uL
   89 mg/dL
   0.8 mg/dL
   20 mEq/L
   3.2 mEq/L
   7 mg/dL
   109 mEq/L
   137 mEq/L
   24.5 %
   3.7 K/uL
        [image002.jpg]
                             [**2138-5-30**]  03:37 AM
                             [**2138-5-31**]  05:21 AM
   WBC
   5.7
   3.7
   Hct
   25.7
   24.5
   Plt
   235
   219
   Cr
   1.1
   0.8
   Glucose
   105
   89
   Other labs: PT / PTT / INR:15.4/52.6/1.4, ALT / AST:111/96, Alk Phos /
   T Bili:205/0.7, Differential-Neuts:84.6 %, Lymph:10.1 %, Mono:4.1 %,
   Eos:1.0 %, Albumin:3.2 g/dL, LDH:280 IU/L, Ca++:7.5 mg/dL, Mg++:1.9
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Assessment: 57M with metastatic renal cell carcinoma s/p T2-7 spinal
   fusion presents for evalation for further radiation therapy. Course
   complicated by post-op ileus now with hypotension and fever. GNR
   urosepsis vs gut translocation.
   # Hypotension/fever:
   -now hemodynamically stable
   -no central line, bolus fluids for MAP < 65
   -in addition + diarrhea, continue prn fluid repletion for this as well
   -surveillance blood cultures
   -empiric abx cefepime, PO vancomycin, and flagyl. Stop IV Vanco.
   # Diarrhea: concern for C diff on CT scan, in addition baseline colonic
   distention with h/o Ogilvies. Diarrhea now much less.
   -replete lytes aggressively
   -p.m. K and Mg
   -surgery following
   -C diff negative x 1, other stool studies neg x 1
   -resend C diff x 2 (no stool to send this morning) and send C diff
   toxin B
   -continue empiric flagyl and PO Vanco for now until stool studies
   return
   -serial abdominal exams
   # RCC: Metastatic to brain.  Likely also to lungs, liver.  No
   chemotherapy as yet but plans for systemic therapy in future.   Has had
   mass resection in brain, plans for cyberknife.  On decadron for
   cerebral swelling per onc.
   -Radiation Oncology - plan for cyberknife mapping monday unless still
   critically ill
   - continue dexamethasone ? taper per oncology
   -  con't dilantin
   - onc recs/ neuro-onc
   # S/P T2-7 spinal fusion: TLSO while out of bed.
   -per neurosurgery unlikely cord compression despite urinary retention
   -Pain control with tylenol but no c/o pain
   # Ileus: Appears to be post-op in origin. GI following. Passing gas and
   stool.  Patient does have dilated loops of bowel but given stool,
   obstruction unlikely
   - follow serial abdominal exams
   -given possibility of perforation while on steroids, largely distended
   colon, possible evidence of translocation causing bacteremia and
   possible colitis will obtain daily KUBs
   -Simethicone
   -Minimize narcotics
   -replete lytes aggressively as above
   -Bowel regimen
   -advance diet to clears if he can tolerate.
   # Hypoxia resolved, was in setting of IV fluids.
    # DVT: on heparin for LE DVT. can transition back to lovenox when
   definitely not having any intervention / procedures.
   # HTN: holding atenolol for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-5-30**] 02:34 AM
   18 Gauge - [**2138-5-30**] 07:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2138-06-01 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   K 3.2- given 60meq po kcl in a.m.
   repeat K 2.9 40meq po kcl and 40meq IV kcl
   repeat K 3.8- nothing given
   Surgery stated continue to follow KUB and abd exams
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-5-31**] 06:05 PM
   Cefipime - [**2138-5-31**] 08:00 PM
   Metronidazole - [**2138-6-1**] 12:00 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Gastrointestinal: No(t) Abdominal pain, + abd bloating, + stool, no
   flatus
   Flowsheet Data as of  [**2138-6-1**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 72 (61 - 77) bpm
   BP: 118/72(84) {104/48(55) - 123/82(87)} mmHg
   RR: 24 (12 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.3 kg (admission): 79.7 kg
   Height: 66 Inch
             Total In:
                                                                  2,847 mL
                                                                    394 mL
   PO:
                                                                    760 mL
             TF:
   IVF:
                                                                  2,087 mL
                                                                    394 mL
   Blood products:
   Total out:
                                                                  3,540 mL
                                                                    950 mL
   Urine:
                                                                  3,540 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -693 mL
                                                                   -556 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : slight rales at L base)
   Abdominal: Non-tender, Bowel sounds present, Distended, severely
   distended abdomen without any tenderness or fluid wave
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   225 K/uL
   8.2 g/dL
   111 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.5 mEq/L
   4 mg/dL
   108 mEq/L
   136 mEq/L
   24.9 %
   2.8 K/uL
        [image002.jpg]
                             [**2138-5-30**]  03:37 AM
                             [**2138-5-31**]  05:21 AM
                             [**2138-5-31**]  02:39 PM
                             [**2138-6-1**]  03:48 AM
   WBC
   5.7
   3.7
   2.8
   Hct
   25.7
   24.5
   24.9
   Plt
   235
   219
   225
   Cr
   1.1
   0.8
   0.7
   0.7
   Glucose
   105
   89
   140
   111
   Other labs: PT / PTT / INR:14.6/53.5/1.2, ALT / AST:111/96, Alk Phos /
   T Bili:205/0.7, Differential-Neuts:84.6 %, Lymph:10.1 %, Mono:4.1 %,
   Eos:1.0 %, Fibrinogen:483 mg/dL, Albumin:3.2 g/dL, LDH:280 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:1.3 mg/dL
   Microbiology: 6/5 blood cx - GNR
   [**5-29**] urine cx - pan sensitive e coli
   Assessment and Plan
   Assessment: 57M with metastatic renal cell carcinoma s/p T2-7 spinal
   fusion presents for evalation for further radiation therapy. Course
   complicated by post-op ileus now with hypotension and fever.
   # Hypotension/fever:
   -GNR in urine and blood, likely initial urosepsis vs. gut translocation
   from massively dilated colon, now hemodynamically stable
   -Urine with pan sensitive e coli, on cefepime, f/u blood cultures then
   can narrow coverage
   -surveillance blood cultures
   -  abx cefepime, PO  vancomycin, and flagyl
   # Diarrhea: concern for C diff on CT scan, in addition baseline colonic
   distention with h/o Ogilvies.
   -replete lytes aggressively
   -p.m. K and Mg
   -surgery following
   -C diff negative x 1, other stool studies neg x 1
   -resend C diff x 2 and send C diff toxin B
   -empiric flagyl and PO vanc
    -serial abdominal exams
   -daily KUB, repeat abd x ray today- lateral decub to eval for free air
   -p.m. lytes
   -Ileus: Appears to be post-op in origin. making stool, f/u stool
   studies as above
   -Simethicone
   -Minimize narcotics
   -per surgery place rectal tube and repeat KUB in a.m.
   # RCC: Metastatic to brain.  Likely also to lungs, liver.  No
   chemotherapy as yet but plans for systemic therapy in future.   Has had
   mass resection in brain, plans for cyberknife.  On decadron for
   cerebral swelling per onc.
   -Radiation Oncology - plan for cyberknife mapping monday unless still
   critically ill
   - continue dexamethasone x 1 additional day per oncology
   -  con't dilantin
   - onc recs/ neuro-onc
   # S/P T2-7 spinal fusion: TLSO while out of bed.
   -per neurosurgery unlikely cord compression despite urinary retention
   -PT consult
   -Pain control with tylenol and oxycodone
   -Con't methocarbamol
   # DVT: on heparin for LE DVT. Transition to lovenox [**Hospital1 **] and d/c heparin
   dripo
   # HTN: holding atenolol for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-5-30**] 02:34 AM
   18 Gauge - [**2138-5-30**] 07:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition: call out from ICU

2138-06-01 10:08:00 Physician Attending Progress Note
Chief Complaint: hypotension, fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57M with metastatic renal cell carcinoma s/p T2-7 spinal fusion
   presented for further radiation therapy. Post-op ileus, hypotension and
   fever. GNR urosepsis vs gut translocation.
   24 Hour Events:
   Aggressive K repletion
   Stool last night, CDiff studies sent
   Abd distension unchanged.
   Surgery eval- no further intervention.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-5-31**] 06:05 PM
   Cefipime - [**2138-6-1**] 08:00 AM
   Metronidazole - [**2138-6-1**] 08:21 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: No(t) Abdominal pain, distension worse
   Flowsheet Data as of  [**2138-6-1**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.6
   HR: 75 (61 - 77) bpm
   BP: 117/74(83) {105/48(55) - 123/82(87)} mmHg
   RR: 26 (12 - 37) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.7 kg (admission): 79.7 kg
   Height: 66 Inch
             Total In:
                                                                  2,850 mL
                                                                    779 mL
   PO:
                                                                    760 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,090 mL
                                                                    659 mL
   Blood products:
   Total out:
                                                                  3,540 mL
                                                                  1,650 mL
   Urine:
                                                                  3,540 mL
                                                                  1,550 mL
   NG:
   Stool:
   100 mL
   Drains:
   Balance:
                                                                   -690 mL
                                                                   -871 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Abdominal: Distended, more distended
   Labs / Radiology
   8.2 g/dL
   225 K/uL
   111 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.5 mEq/L
   4 mg/dL
   108 mEq/L
   136 mEq/L
   24.9 %
   2.8 K/uL
        [image002.jpg]
                             [**2138-5-30**]  03:37 AM
                             [**2138-5-31**]  05:21 AM
                             [**2138-5-31**]  02:39 PM
                             [**2138-6-1**]  03:48 AM
   WBC
   5.7
   3.7
   2.8
   Hct
   25.7
   24.5
   24.9
   Plt
   235
   219
   225
   Cr
   1.1
   0.8
   0.7
   0.7
   Glucose
   105
   89
   140
   111
   Other labs: PT / PTT / INR:14.6/53.5/1.2, ALT / AST:111/96, Alk Phos /
   T Bili:205/0.7, Differential-Neuts:84.6 %, Lymph:10.1 %, Mono:4.1 %,
   Eos:1.0 %, Fibrinogen:483 mg/dL, Albumin:3.2 g/dL, LDH:280 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:1.3 mg/dL
   Microbiology: Blood: GNR [**5-29**], not yet speciated
   Urine: pansensitive E Coli
   Assessment and Plan
   # Hypotension/fever:
   -now hemodynamically stable
   -no central line, bolus fluids for MAP < 65
   -in addition + diarrhea, continue prn fluid repletion for this as well
   -surveillance blood cultures
   -empiric abx cefepime, PO vancomycin, and flagyl. Stop IV Vanco.
   # Ileus. Concern for C diff in addition baseline colonic distention
   with h/o Ogilvies. Diarrhea now much less.
   - C Diff studies pending including toxin B
   - continue empiric IV flagyl and PO Vanco for now until stool studies
   return
   - rectal tube now
   -replete lytes aggressively
   -serial abdominal exams
   -given possibility of perforation while on steroids, largely distended
   colon, possible evidence of translocation causing bacteremia and
   possible colitis will obtain daily KUBs
   -Minimize narcotics
   -written for clears, advance to lactose-free dysphagia diet
   # RCC: Metastatic to brain.  Likely also to lungs, liver.  No
   chemotherapy as yet but plans for systemic therapy in future.   Has had
   mass resection in brain, plans for cyberknife.  On decadron for
   cerebral swelling per onc.
   -Radiation Oncology - plan for cyberknife mapping monday unless still
   critically ill
   - final day dexamethasone
   -  con't dilantin
   - onc recs/ neuro-onc
   # S/P T2-7 spinal fusion: TLSO while out of bed.
   -per neurosurgery unlikely cord compression despite urinary retention
   -Pain control with tylenol but no c/o pain
    # DVT: on heparin for LE DVT. can transition back to lovenox when
   definitely not having any intervention / procedures.
    # HTN: holding atenolol for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-5-30**] 02:34 AM
   18 Gauge - [**2138-5-30**] 07:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt, switch to lovenox)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: